US07517994B2
Step E: Preparation of 5-chloro-2,6-dimethylpyridazin-3(2H)-one:
A mixture of 5-hydroxy-2,6-dimethylpyridazin-3(2H)-one (736 mg, 5.25 mmol) and POCl3 (4.5 mL) was stirred at 85° C. for 2 hours. The reaction mixture was concentrated under reduced pressure to give the crude material that was quenched with saturated aqueous Na2CO3. The resulting mixture was stirred for 2 hours and extracted with EtOAc (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure to give 587 mg (70%) of the desired product that was used directly without further purification.

reactant | 5-hydroxy-2,6-dimethylpyridazin-3(2H)-one | 5.25 mmol, 736 mg | OC1=CC(N(N=C1C)C)=O | C6H8N2O2
reactant | POCl3 | 4.5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-chloro-2,6-dimethylpyridazin-3(2H)-one | 587 mg, 70% | ClC1=CC(N(N=C1C)C)=O | C6H7ClN2O
